US05292921
708 mg (2.65 mmol) of 1-phenyl-1-benzoylamino-2-hydroxybut-3-ene, syn form, 13.5 cm3 of dry methylene chloride, 2.53 cm3 (1.911 g, 26.5 mmol) of ethyl vinyl ether and 66.5 mg (0.265 mmol) of pyridinium p-toluenesulphonate (PPTS) are introduced successively into a 50 cm3 single-necked flask placed under an argon atmosphere and equipped with a magnetic stirring system. The resulting homogeneous reaction mixture is left to react for 4 hours at a temperature of about 20° C. When the reaction is complete, 1 drop of pyridine is added and the reaction mixture is then diluted in 20 cm3 of methylene chloride. The organic phase is washed once with 20 cm3 of water. The aqueous phase is extracted twice with 20 cm3 of methylene chloride. The combined organic phases are washed twice with 20 cm3 of water and once with 10 cm3 of a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulphate. After filtration, the solvents are driven off under reduced pressure on a rotary evaporator. The residue obtained (992 mg) is chromatographed on a column of silica gel. Elution with a hexane/ether mixture (6/4 by volume) gives 1-phenyl-1-benzoylamino-2-(1-ethoxyethoxy)but-3-ene, syn form, with a yield of 91% (818 mg, 2.41 mmol). The product obtained is in the form of an equimolar mixture of the two epimers (determination by the proton nuclear magnetic resonance spectrum).

reactant | 1-phenyl-1-benzoylamino-2-hydroxybut-3-ene | 2.65 mmol, 708 mg | C1(=CC=CC=C1)C(C(C=C)O)NC(C1=CC=CC=C1)=O | C17H17NO2
reactant | ethyl vinyl ether | 26.5 mmol, 2.53 cm3, 1.911 g | C(=C)OCC | C4H8O
reactant | pyridinium p-toluenesulphonate | 0.265 mmol, 66.5 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
catalyst | pyridine | 1 drop | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 20 cm3 | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 13.5 cm3 | C(Cl)Cl | CH2Cl2
product | 1-phenyl-1-benzoylamino-2-(1-ethoxyethoxy)but-3-ene | yield of 91% | C1(=CC=CC=C1)C(C(C=C)OC(C)OCC)NC(C1=CC=CC=C1)=O | C21H25NO3
